US04968678
B. 4-Pyridineethanol acetate
To a solution of 11.3 ml of acetic anhydride in 100 ml of methylene chloride was added approximately 125 mg of dimethylaminopyridine, and the solution was cooled to 0° C. In a separate container 12.2 g (0.099 mol) of 4-pyridineethanol was suspended in 80 ml of methylene chloride and 12.14 g (0.120 mol, 16.7 ml) of triethylamine was added. This mixture was added to the acetic anhydride solution slowly by pipet. The resulting mixture was stirred at room temperature for approximately 90 minutes and quenched with about 100 ml of water. The mixture was placed in a separatory funnel and the organic layer was isolated and washed two times with 100 ml portions of water. The aqueous layers were combined and extracted two times with methylene chloride and one time with diethyl ether. The organic extracts were combined, dried over anhydrous sodium sulfate, filtered and concentrated under vacuum to provide 16.2 g of the desired compound. Purification by high pressure liquid chromatography provided 11.19 g of 4-pyridineethanol acetate.

reactant | acetic anhydride | 11.3 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-pyridineethanol | 0.099 mol, 12.2 g | N1=CC=C(C=C1)CCO | C7H9NO
reactant | triethylamine | 0.120 mol, 16.7 ml, 12.14 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
catalyst | dimethylaminopyridine | approximately 125 mg | CN(C)C1=NC=CC=C1 | C7H10N2
product | 4-Pyridineethanol acetate | 16.2 g | C(C)(=O)OCCC1=CC=NC=C1 | C9H11NO2
